US07767675B2
Step 3. 2,3-difluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzoic acid
A mixture of 4-(2-aminopyrimidin-5-yl)-2,3-difluorobenzoic acid (15 mg, 0.060 mmol) and 1-[2-chloro-1-hydroxy-2-(1-quinolin-6-ylcyclopropyl)ethyl]pyrrolidine-2,5-dione (20 mg, 0.058 mmol) in ethanol (1.0 mL) was stirred at 100° C. overnight. The reaction mixture was purified by RP-HPLC (pH 10) to afford the desired product (9 mg, 40%). LCMS: (M+H)=443.0.

reactant | 4-(2-aminopyrimidin-5-yl)-2,3-difluorobenzoic acid | 0.060 mmol, 15 mg | NC1=NC=C(C=N1)C1=C(C(=C(C(=O)O)C=C1)F)F | C11H7F2N3O2
reactant | 1-[2-chloro-1-hydroxy-2-(1-quinolin-6-ylcyclopropyl)ethyl]pyrrolidine-2,5-dione | 0.058 mmol, 20 mg | ClC(C(O)N1C(CCC1=O)=O)C1(CC1)C=1C=C2C=CC=NC2=CC1 | C18H17ClN2O3
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | 2,3-difluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzoic acid | 9 mg, 40% | FC1=C(C(=O)O)C=CC(=C1F)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C25H16F2N4O2
